US04537698
A solution of 5 g of 1-(4-methoxycarbonylcyclohexen-1-yl)-4-pentylpiperidine (b.p. 171°/0.4 mm Hg, obtainable from methyl cyclohexanone-4-carboxylate and 4-pentylpiperidine in toluene in the presence of p-toluenesulfonic acid) in 50 ml of THF is hydrogenated under 2 bar of H2 using 0.5 g of 10% Pd-C; the catalyst is filtered off; and the filtrate is evaporated to dryness to give 1-(trans-4-methoxycarbonylcyclohexyl)4-pentylpiperidine, m.p. 5°, b.p. 177°/0.27 mbar.

reactant | 1-(4-methoxycarbonylcyclohexen-1-yl)-4-pentylpiperidine | 5 g | COC(=O)C1CC=C(CC1)N1CCC(CC1)CCCCC | C18H31NO2
reactant | methyl cyclohexanone-4-carboxylate | COC(=O)C1CCC(=O)CC1 | C8H12O3
reactant | 4-pentylpiperidine | C(CCCC)C1CCNCC1 | C10H21N
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | Pd-C | [Pd] | Pd
product | 1-(trans-4-methoxycarbonylcyclohexyl)4-pentylpiperidine | COC(=O)[C@@H]1CC[C@H](CC1)N1CCC(CC1)CCCCC | C18H33NO2
